US07700594B2
Benzyl 4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate
To a solution of benzyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate (1.31 g, 0.00354 mol) in DMF (0.6 mL) was added NIS (1.6 g, 0.0071 mol). The reaction mixture was left to stir at 55° C. for 20 h. then the mixture was diluted with EtOAc (20 mL), washed with water (2×40 mL) and brine, then dried over Na2SO4 and concentrated in vacuo. The crude reaction mixture was chromatographed over silica gel eluting with hexane→hexane:EtOAc 1:1 yielding 1.63 g of desired product. 1H NMR (400 MHz, CDCl3): δ 1.95-2.04 (m, 4H), 3.02-3.15 (m, 3H), 4.29-4.32 (m, 2H), 5.15 (s, 2H), 7.32 (d, J=5.2 Hz, 1H), 7.34-7.37 (m, 5H), 7.66 (d, J=5.2 Hz, 1H). MS (ES+): m/z 497.03 [MH+].

reactant | benzyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | 0.00354 mol, 1.31 g | ClC=1C=2N(C=CN1)C(=NC2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C19H19ClN4O2
reactant | NIS | 0.0071 mol, 1.6 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Benzyl 4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | ClC=1C=2N(C=CN1)C(=NC2I)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C19H18ClIN4O2
